US07700609B2
5-Dimethylaminomethylene-4-oxo-4,5,6,7-tetrahydro-benzo[b]thiophene-2-carboxylic acid tert-butyl ester
4-Oxo-4,5,6,7-tetrahydro-benzo[b]thiophene-2-carboxylic acid tert-butyl ester (8.75 g, 34.68 mmol) was suspended in dry toluene (40 mL) and Bredereck's reagent (6.65 g, 38.14 mmol) was added. The resulting suspension was heated at reflux for 2 hours, during which time all starting material dissolved, allowed to cool to room temperature and concentrated under reduced pressure. The resulting oil was purified by silica gel chromatography (50% EtOAc in hexanes on 1 L silica, loaded as a solution in dichloromethane) to afford the title compound as a brown solid (6.21 g, 58% yield). MS (ES+) 308. δH (CDCl3) 1.5-1.6 (9H, s), 2.9-3.0 (2H, m), 3.0-3.1 (2H, m), 3.1 (6H, s), 7.6 (1H, s), 8.0 (1H, s).

reactant | 4-Oxo-4,5,6,7-tetrahydro-benzo[b]thiophene-2-carboxylic acid tert-butyl ester | 34.68 mmol, 8.75 g | C(C)(C)(C)OC(=O)C1=CC2=C(S1)CCCC2=O | C13H16O3S
reactant | Bredereck's reagent | 38.14 mmol, 6.65 g | CC(C)(C)OC(N(C)C)N(C)C | C9H22N2O
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | 5-Dimethylaminomethylene-4-oxo-4,5,6,7-tetrahydro-benzo[b]thiophene-2-carboxylic acid tert-butyl ester | 6.21 g, 58% yield | C(C)(C)(C)OC(=O)C1=CC2=C(S1)CCC(C2=O)=CN(C)C | C16H21NO3S
